US07858632B2
To a solution of 2-isopropyl-4-methoxy-phenol (56.91 g, 342 mmol) triethylamine (57.3.0 ml, 411 mmol) in 750 ml CH2Cl2 was cooled to 0° C. p-Toluenesulfonyl chloride (68.54 g, 360 mmol) in 250 ml CH2Cl2 was added drop-wise at a rate that maintained the internal temperature<10° C. The mixture was allowed to warm to rt. After 16 h, H2O was added and the mixture was extracted with CH2Cl2. The combined organics were washed with brine, dried with Na2SO4, filtered and concentrated in vacuo to afford a crude solid. Recrystallization from hexanes afforded toluene-4-sulfonic acid 2-isopropyl-4-methoxy-phenyl ester (81.67 g, 74%) as white needles.

reactant | 2-isopropyl-4-methoxy-phenol | 342 mmol, 56.91 g | C(C)(C)C1=C(C=CC(=C1)OC)O | C10H14O2
reactant | p-Toluenesulfonyl chloride | 360 mmol, 68.54 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | H2O | O | H2O
solvent | CH2Cl2 | 750 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
product | toluene-4-sulfonic acid 2-isopropyl-4-methoxy-phenyl ester | 81.67 g, 74% | C(C)(C)C1=C(C=CC(=C1)OC)OS(=O)(=O)C1=CC=C(C=C1)C | C17H20O4S
